US08563575B2
122b) 3-(4-hydroxyphenyl)-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-[4-(benzyloxy)phenyl]-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (283 mg) and 10% palladium on carbon (50% wet) (87 mg) in MeOH (4.2 mL) and EtOAc (4.2 mL) was hydrogenated under balloon pressure at room temperature overnight. The solid was filtrated and washed with MeOH (10 ml) to remove the catalyst. The filtrate was concentrated in vacuo to give the title compound (210 mg) as a gray solid.

reactant | 3-[4-(benzyloxy)phenyl]-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 283 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C)C(C)C)=O | C23H23N3O2
catalyst | palladium on carbon | 87 mg | [Pd] | Pd
solvent | MeOH | 4.2 mL | CO | CH4O
solvent | EtOAc | 4.2 mL | CCOC(=O)C | C4H8O2
product | 3-(4-hydroxyphenyl)-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 210 mg | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C)C(C)C)=O | C16H17N3O2
